US05665718
1 ml (12.2 mmol) of propylamine was added to a suspension of 1.7 g (4.9 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo-[1,5-a][1,4]benzodiazepin-6-one in 40 ml of N,N-dimethylformamide and the mixture was stirred at room temperature for 12 hours. The solution was evaporated and the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous solution was extracted with methylene chloride and the organic phases were dried with magnesium sulfate, filtered and evaporated. The residue was chromatographed (silica gel, ethyl acetate/methanol 9:1). There were obtained 1.21 g (67%) of 3-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, Rf=0.22 (silica gel, ethyl acetate/methanol 4:1).

reactant | propylamine | 12.2 mmol, 1 ml | C(CC)N | C3H9N
reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo-[1,5-a][1,4]benzodiazepin-6-one | 4.9 mmol, 1.7 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1F)=O)C | C15H11ClFN5O2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.21 g, 67% | C(CC)NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1F)=O)C | C18H19FN6O2
